US07842713B2
Preparation of Intermediate 324b: Ethyl 4-(azetidin-3-yloxy)-2-methyl-1-benzofuran-6-carboxylate
A mixture of ethyl 4-{[1-(diphenylmethyl)azetidin-3-yl]oxy}-2-methyl-1-benzofuran-6-carboxylate (2.1 g, 4.77 mmol) in EtOAc/MeOH (10 mL/20 mL) and Pd/C (0.060 g, 10%, 0.048 mmol) was stirred for 14 hours under a hydrogen atmosphere (balloon). The mixture was filtered through a bed of Celite washing with methanol. The sample was concentrated to give a pale white solid (quantitative yield), which was used without further purification. 1H NMR (300 MHz, CHLOROFORM-d) δ ppm 1.35-1.52 (m, 3 H) 2.18 (s, 1 H) 2.47 (s, 3 H) 3.78-3.94 (m, 2 H) 4.00-4.13 (m, J=7.16 Hz, 2 H) 4.29-4.49 (m, 2 H) 5.11-5.27 (m, 1 H) 6.52 (s, 1 H) 7.05 (s, 1 H) 7.78 (s, 1 H); MS (ESI, pos): 276.

reactant | ethyl 4-{[1-(diphenylmethyl)azetidin-3-yl]oxy}-2-methyl-1-benzofuran-6-carboxylate | 4.77 mmol, 2.1 g | C1(=CC=CC=C1)C(N1CC(C1)OC1=CC(=CC2=C1C=C(O2)C)C(=O)OCC)C2=CC=CC=C2 | C28H27NO4
solvent | EtOAc MeOH | 10 mL | CCOC(=O)C.CO
catalyst | Pd/C | 0.048 mmol, 0.060 g | [Pd] | Pd
product | Ethyl 4-(azetidin-3-yloxy)-2-methyl-1-benzofuran-6-carboxylate | quantitative yield | N1CC(C1)OC1=CC(=CC2=C1C=C(O2)C)C(=O)OCC | C15H17NO4
